US05101048
Preparation of 2-naphthalenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 3a)
If the procedure described in Preparation I is followed starting from 6.8 g (42.4.10-3 mol) of naphthalene-2-thiol, 10.8 g (42.4.10-3 mol) of mercuric cyanide, Hg(CN)2, and 12 g (33.2.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide, 5.84 g (yield: 40%) of the expected product are obtained.

reactant | naphthalene-2-thiol | 6.8 g | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | Hg(CN)2 | [Hg](C#N)C#N
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 12 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
product | 2-naphthalenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 5.84 g, yield: 40% | C(C)(=O)O[C@H]1[C@H](SC2=CC3=CC=CC=C3C=C2)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C21H22O6S2
